US06756378B2
To a solution of 2-(N-benzyl-N-tert-butoxycarbonylamino)ethanol (6.85 g, 27.3 mmol), 4-fluorophenol (3.07 g, 27.3 mmol) and PPh3 (7.83 g, 30.0 mmol) in THF (100 mL) was added DIAD (6.00 mL, 30.0 mmol) at room temperature. After being stirred for 3 hr, the reaction mixture was concentrated. Chromatography of the residue with hexane-EtOAc (8:1, v/v) as eluent gave 1-[2-(N-benzyl-N-tert-butoxycarbonylamino)ethoxy]-4-fluorobenzene (8.19 g, 64%) as a yellow oil. 1H-NMR (CDCl3) δ1.42-1.50 (m, 9H), 3.41-3.67 (m, 2H), 3.92-4.11 (m, 2H), 4.51-4.63 (m, 2H), 6.73-6.85 (m, 2H), 6.89-6.98 (m, 2H), 7.24 (m 5); FAB-MS m/z 346 (M++1).

reactant | 2-(N-benzyl-N-tert-butoxycarbonylamino)ethanol | 27.3 mmol, 6.85 g | C(C1=CC=CC=C1)N(C(=O)OC(C)(C)C)CCO | C14H21NO3
reactant | 4-fluorophenol | 27.3 mmol, 3.07 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | PPh3 | 30.0 mmol, 7.83 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 30.0 mmol, 6.00 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-[2-(N-benzyl-N-tert-butoxycarbonylamino)ethoxy]-4-fluorobenzene | 8.19 g, 64% | C(C1=CC=CC=C1)N(C(=O)OC(C)(C)C)CCOC1=CC=C(C=C1)F | C20H24FNO3
